* C:\Users\Aitor\OneDrive - Universidad de Extremadura\Universidad\TFG\Electrónica\Circuito\Draft1.asc
V1 N001 0 PULSE(0 3.2 0 1u 1u 2 4)
C1 V- N001 100m
D1 V- 0 D
C2 V- 0 100m
D2 V- 0 D
.model D D
.lib C:\Users\Aitor\OneDrive - Universidad de Extremadura\Documentos\LTspiceXVII\lib\cmp\standard.dio
.tran 10
.backanno
.end
